US06653308B2
Synthesis of 5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidene-methyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-morpholin-4-yl-propyl)-amide
5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (120 mg, 0.4 mmol) was condensed with 1-amino-3-morpholin-4-yl-propan-2-ol(74 mg, 0.48 mmol) to precipitate 5-[5-fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-morpholin-4-yl-propyl)-amide (65 mg, 36%). The mother liquid was evaporated to dryness and the residue was purified by flash chromatography to give additional 2N (70 mg, 39%). 1H NMR (DMSO-d6) δ2.28 (m, 1H), 2.32 (m, 1H), 2.40 (m, 4H), 2.40, 2.42 (2×s, 6H, 2×CH3), 3.15 (s, 1H), 3.31 (m, 1H), 3.55 (m, 4H), 3.78 (m, 1H), 4.73 (brs, 1H, OH), 6.82 (dd, J=4.5, 8.4 Hz, 1H), 6.90 (td, 2J=2.8, 3J=10.0 Hz, 1H), 7.53 (m, 1H), 7.70 (s, 1H), 7.74 (dd, J=2.0, 9.6 Hz, 1H) (aromatic and vinyl), 10.87 (s, 1H, CONH), 13.66 (s, 1H, NH). LC-MS (m/z) 441.4 (M-1).

reactant | 5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.4 mmol, 120 mg | FC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C(=C(N1)C)C(=O)O)C | C16H13FN2O3
reactant | 1-amino-3-morpholin-4-yl-propan-2-ol | 0.48 mmol, 74 mg | NCC(CN1CCOCC1)O | C7H16N2O2
product | 5-[5-Fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidene-methyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-morpholin-4-yl-propyl)-amide | OC(CNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)F)=O)C)CN1CCOCC1 | C23H27FN4O4
